US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3-bromo-4-chloro-phenyl)-propionic acid
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3-bromo-4-chloro-phenyl)-propionic acid was prepared from 3-bromo-4-chloro-L-phenylalanine methyl ester hydrochloride and 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoic acid as in EXAMPLE 1, Part C. Hydrolysis of the methyl ester as in EXAMPLE 2, Part E, provided the title compound. HPLC: RT=10.07 min. MS (ESI−): mass calcd. for C22H15BrCl2N4O5S2, 630.32; m/z found, 629/631 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.35 (s, 1H), 8.36 (d, J=7.0, 1H), 8.20 (d, J=8.8, 1H), 7.76-7.69 (m, 2H), 7.41 (d, J=1.7, 1H), 7.36 (d, J=8.2, 1H), 7.17 (d, J=8.5, 1H), 7.05 (dd, J=8.2, 1.8, 1H), 6.91 (dd, J=8.4, 1.8, 1H), 6.53 (d, J=7.1, 1H), 5.04-4.95 (m, 1H), 3.36-3.15 (m, 2H).

reactant | 3-bromo-4-chloro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)Cl)Br)=O
reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3-bromo-4-chloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)Cl)Br)C=CC(=C2)Cl | C22H15BrCl2N4O5S2
